US08629271B2
b) tert-Butyl 2,2-difluoro-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
A solution of tert-butyl 4-((2-bromo-2,2-difluoroacetamido)methyl)-4-hydroxypiperidine-1-carboxylate (example 37, step a) (3.2 g) in THF (40 mL) was added dropwise over 15 minutes to a stirred solution of potassium tert-butoxide (1M in t-butanol, 16.53 mL) and THF (60 mL) at 70° C. under nitrogen. At the end of the addition the mixture was heated for a further 10 minutes and then cooled to room temperature. The mixture was partitioned between ethyl acetate and brine, the organic layer was dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure. The crude product was purified by flash silica chromatography using 30% isohexane in ethyl acetate. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 0.55 g.

reactant | tert-butyl 4-((2-bromo-2,2-difluoroacetamido)methyl)-4-hydroxypiperidine-1-carboxylate | BrC(C(=O)NCC1(CCN(CC1)C(=O)OC(C)(C)C)O)(F)F | C13H21BrF2N2O4
reactant | potassium tert-butoxide | 1M, 16.53 mL | CC(C)([O-])C.[K+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2,2-difluoro-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | FC1(OC2(CNC1=O)CCN(CC2)C(=O)OC(C)(C)C)F | C13H20F2N2O4
